Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
codeine / Avelox
 
Attending: ___.
 
Chief Complaint:
Left superior cerebellar artery aneurysm
 
Major Surgical or Invasive Procedure:
___ coil embolization of left superior cerebellar artery 
aneurysm

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman who presents to ___ 
for electively for endovascular intervention on a known 
cerebellar aneurysm.  
 
Past Medical History:
HLD
Asthmas
GERD
Heroin Abuse 
 
Social History:
___
Family History:
mother and sister with aneurysms
 
Physical Exam:
ON DISCHARGE:
Patient is awake, alert and oriented x 3. 
MAE full strength and sensation. 
No pronator drift. Face symmetric. 
Patient is ambulating and tolerate a normal diet. Pain well 
controlled with Tylenol. 
Right groin site is CDI no drainage or hematoma. 
 
Pertinent Results:
Please refer to ___ for pertinent results. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman who presented electively 
for coiling of left superior cerebellar aneurysm. 

# LEFT SUPERIOR CEREBELLAR ANEURSYM: Please refer to Dr. 
___ report for full detail. Patient extubated in 
angio-suite and transferred to the PACU for continued care. 
Right groin angiosealed. No hematoma or drainage noted on day of 
discharge. The patient was ambulating and tolerating a regular 
diet. He was discharged in stable condition with instructions to 
continue ASA 325mg and follow up with Dr. ___. 
 
Medications on Admission:
ProAir HFA
Lipitor 80
Symbicort
Plavix
Fluoxetine 
Notriptyline
Protonix 
Lyrica
Ropinirole
Trazadone 
Aspirin 
 
Discharge Medications:
1.  Albuterol Sulfate (Extended Release) 4 mg PO Q12H  
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  CloNIDine 0.1 mg PO BID  
5.  FLUoxetine 40 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Pregabalin 300 mg PO BID  
8.  rOPINIRole 0.5 mg PO TID  
9.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
10.  TraZODone 150 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left superior cerebellar aneurysm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Activity

·     You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.

·     Heavy lifting, running, climbing, or other strenuous 
exercise should be avoided for ten (10) days. This is to prevent 
bleeding from your groin.

·     You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

·     Do not go swimming or submerge yourself in water for five 
(5) days after your procedure.

·     You make take a shower.

Medications

·     Resume your normal medications and begin new medications 
as directed.

·     It is very important to take the medication your doctor 
___ prescribe for you to keep your blood thin and slippery. 
This will prevent clots from developing and sticking to the 
stent.

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

·     If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site

·     You will have a small bandage over the site.

·     Remove the bandage in 24 hours by soaking it with water 
and gently peeling it off.

·     Keep the site clean with soap and water and dry it 
carefully.

·     You may use a band-aid if you wish.

What You ___ Experience:

·     Mild tenderness and bruising at the puncture site (groin).

·     Soreness in your arms from the intravenous lines.

·     The medication may make you bleed or bruise easily.

·     Fatigue is very normal.

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
puncture site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Constipation

·     Blood in your stool or urine

·     Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason

 
Followup Instructions:
___